US09126993B2
To a solution of quinuclidin-3-yl 1-(4-bromophenyl)cyclopropylcarbamate (870 mg, 2.43 mmol) in 30 mL 1,4-dioxane, was added bis(pinacolato)diboron (1.81 g, 7.22 mmol), CH3COOK (2.10 g, 21.4 mmol), and [PdCl2(pddf)]CH2Cl2 (97 mg, 0.12 mmol). The mixture was stirred at 80° C. for 18 h. The solvent was evaporated and the residue was extracted with EtOAc. The extracts were concentrated and purified by silica gel column chromatography (eluting with EtOAc/methanol from 20/1 to 10/1, containing 1% of TEA) to give quinuclidin-3-yl 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropylcarbamate (260 mg, 33%) as a brown semi-solid.

reactant | quinuclidin-3-yl 1-(4-bromophenyl)cyclopropylcarbamate | 2.43 mmol, 870 mg | BrC1=CC=C(C=C1)C1(CC1)NC(OC1CN2CCC1CC2)=O | C17H21BrN2O2
reactant | bis(pinacolato)diboron | 7.22 mmol, 1.81 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH3COOK | 21.4 mmol, 2.10 g | CC(=O)O[K]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | quinuclidin-3-yl 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropylcarbamate | 260 mg, 33% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CC1)NC(OC1CN2CCC1CC2)=O)C | C23H33BN2O4
